US06107291
To a stirred solution of 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 2-tert-butyl ester (1.17 g, 2.65 mmoL) in 26.5 mL THF at 0° C. was added triethylamine (0.406 mL, 2.915 mmoL) followed by isobutyl chloroformate (0.378 mL, 2.915 mmoL). This suspention was allowed to stir for one hour. The suspention was then filtered into a dropping funnel which was added dropwise to a previously prepared sodium borohydride (321 mg, 8,48 mmoL) solution in 1.63 mL of water at 0° C. After 2.5 hours the solvent was stripped and the residue was diluted with ethyl acetate and water. The solution was washed once with 0.5N HCL, the layers separated, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography (silica: 25% to 35% ethyl acetate in hexanes) to yield 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert butyl ester; MS: (M+H)+ =398, (M+NH4)+ =415.

reactant | 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 2-tert-butyl ester | 1.17 g | C(C)(C)(C)OC(=O)C1N(CC=CCC1C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C19H25NO7S
reactant | triethylamine | 0.406 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.378 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | THF | 26.5 mL | C1CCOC1 | C4H8O
product | 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert butyl ester | C(C)(C)(C)OC(=O)C1N(CC=CCC1CO)S(=O)(=O)C1=CC=C(C=C1)OC | C19H27NO6S
